US07608639B2
3-{4-[3-Chloro-5-(2-pyridin-2-yl-4-trifluoromethyl-phenoxy)-phenoxy]-2-methyl-phenyl}-propionic acid
The title compound is prepare by reacting the compound of 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-5-chloro-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester with 2-tributylstannyl pyridine as in Example 39 to afford 0.055 g (32%). 1H NMR (400 MHz, CDCl3); HRMS (ES+) m/z exact mass calculated for C28H21NO4F3Cl 528.1190, found 528.1194.

reactant | 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-5-chloro-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester | C(C)OC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)Cl)OC1=C(C=C(C=C1)C(F)(F)F)Br)C)=O | C25H21BrClF3O4
reactant | 2-tributylstannyl pyridine | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
product | 3-{4-[3-Chloro-5-(2-pyridin-2-yl-4-trifluoromethyl-phenoxy)-phenoxy]-2-methyl-phenyl}-propionic acid | ClC=1C=C(OC2=CC(=C(C=C2)CCC(=O)O)C)C=C(C1)OC1=C(C=C(C=C1)C(F)(F)F)C1=NC=CC=C1 | C28H21ClF3NO4
